US07897621B2
b) 5-(3,4-Dichloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(pyridin-2-ylmethoxy)-2-trifluoromethyl-nicotinamide
The title compound was synthesized in analogy to Example 1d, using 5-bromo-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(pyridin-2-ylmethoxy)-2-trifluoromethyl-nicotinamide and 3,4-dichlorophenylboronic acid as starting materials, MS (ISP) 540.1 (M+H)+.

reactant | 5-bromo-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(pyridin-2-ylmethoxy)-2-trifluoromethyl-nicotinamide | BrC=1C(=NC(=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)C(F)(F)F)OCC1=NC=CC=C1 | C19H19BrF3N3O3
reactant | 3,4-dichlorophenylboronic acid | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
product | 5-(3,4-Dichloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(pyridin-2-ylmethoxy)-2-trifluoromethyl-nicotinamide | ClC=1C=C(C=CC1Cl)C=1C(=NC(=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)C(F)(F)F)OCC1=NC=CC=C1 | C25H22Cl2F3N3O3
